US09193725B2
To a stirred solution of 5-allyl-4,6-dichloropyrimidine (2.5 g) in dry dioxane (25 mL), N-methyl morpholine N-oxide (2.3 g) and osmium tetroxide (0.85 mL, 25% solution in water) were added. The reaction mixture was stirred at room temperature for 2 hours before being quenched by solid sodium bisulphate. The reaction mixture was filtered through celite bed. The celite bed was washed with dioxane (10 mL). The combined filtrate was taken into a 100 mL three necked round bottom flask and sodium metaperiodate (6 g, in 5 mL water) was added. The reaction mixture was stirred at room temperature for about 3 hours, then diluted with water (30 mL). Aqueous layer was extracted with dichloromethane (2×25 mL). The combined organic layer was washed with brine (50 mL) and dried over anhydrous Na2SO4. Evaporation of solvents under reduced pressure gave crude product, which was treated with hexane to offer a solid. The solid obtained was filtered, washed with cold hexane (50 mL) and dried under vacuum to get 2-(4,6-dichloropyrimidin-5-yl)acetaldehyde (1.7 g) as white solid. 1H NMR (DMSO-d6): δ 4.21 (s, 2H), 8.86 (s, 1H), 9.7 (s, 1H).

reactant | 5-allyl-4,6-dichloropyrimidine | 2.5 g | C(C=C)C=1C(=NC=NC1Cl)Cl | C7H6Cl2N2
reactant | N-methyl morpholine N-oxide | 2.3 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | hexane | CCCCCC | C6H14
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | osmium tetroxide | 0.85 mL | [Os](=O)(=O)(=O)=O
product | 2-(4,6-dichloropyrimidin-5-yl)acetaldehyde | 1.7 g | ClC1=NC=NC(=C1CC=O)Cl | C6H4Cl2N2O
